US04686217
(a) Cyclopentyl 2-(2,3-dichlorophenylmethylene)-3-oxobutanoate
A solution of 2,3-dichlorobenzaldehyde (2.5 g, 14.3 mmoles), cyclopentyl 3-oxobutanoate (2.42 g, 14.3 mmoles), piperidine (8 drops) and hexanoic acid (11 drops) in dry benzene (80 ml) was heated at reflux for 4 hours using a Dean and Stark apparatus. The solution was allowed to cool to room temperature and the solvent removed in vacuo to leave the sub-title compound as an oil 5.1 g.

reactant | 2,3-dichlorobenzaldehyde | 14.3 mmoles, 2.5 g | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | cyclopentyl 3-oxobutanoate | 14.3 mmoles, 2.42 g | O=C(CC(=O)OC1CCCC1)C | C9H14O3
catalyst | piperidine | 8 drops | N1CCCCC1 | C5H11N
catalyst | hexanoic acid | 11 drops | C(CCCCC)(=O)O | C6H12O2
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | Cyclopentyl 2-(2,3-dichlorophenylmethylene)-3-oxobutanoate | 5.1 g | ClC1=C(C=CC=C1Cl)C=C(C(=O)OC1CCCC1)C(C)=O | C16H16Cl2O3
